US04031226
A mixture of 4.5 parts of N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}-2-nitrobenzamide, 80 parts of methanol and 45 parts of tetrahydrofuran is hydrogenated at normal pressure and at room temperature with 2 parts of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is crystallized twice from 2-propanol. The product is filtered off and dried, yielding 2 parts of 2-amino-N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}benzamide hemihydrate; mp. 219.2° C.

reactant | N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}-2-nitrobenzamide | O=C1NC2=C(N1C1CCN(CC1)CCNC(C1=C(C=CC=C1)[N+](=O)[O-])=O)C=CC=C2 | C21H23N5O4
reactant | methanol | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-amino-N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethyl}benzamide hemihydrate | O.NC1=C(C(=O)NCCN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C=CC=C1.NC1=C(C(=O)NCCN3CCC(CC3)N3C(NC2=C3C=CC=C2)=O)C=CC=C1 | InChI=1S/2C21H25N5O2.H2O/c2*22-17-6-2-1-5-16(17)20(27)23-11-14-25-12-9-15(10-13-25)26-19-8-4-3-7-18(19)24-21(26)28;/h2*1-8,15H,9-14,22H2,(H,23,27)(H,24,28);1H2
